datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([C:29]([C:30]([H:35])([H:36])[H:37])[C:31]([H:38])([H:39])[H:40])[H:34])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:29]([C:28](=[C:27]([H:32])[H:33])[H:34])([C:30]([H:35])([H:36])[H:37])[C:31]([H:38])([H:39])[H:40])[H:15])([H:13])[H:14],43.4718
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:5])[H:6],35.8569
[C:0]([O:1])([H:2])([H:3])[H:4].[S:5]([H:6])[H:7]>>[C:0]([O:1][H:6])([H:2])([H:3])[H:4].[S:5][H:7],4.97896
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:9])([H:7])[H:8],17.782
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][H:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][O:35][H:36],-5.819944
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([S:12][H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:15])[H:5].[C:10](=[C:11][S:12][H:16])([H:13])[H:14],91.5041
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([O:9][H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[O:9][H:13])([H:3])[H:4].[C:8]([H:10])([H:11])[H:12],134.996
[N:0]([O:1][H:4])([H:2])[H:3].[O:5][O:6][H:7]>>[H:4][O:5][O:6][H:7].[N:0]([O:1])([H:2])[H:3],65.3541
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])=[C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:7]([H:19])([H:20])[H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:11],57.7392
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[S:6]=[C:7]([S:8][H:10])[H:9]>>[C:0](=[C:1]([S:2][H:5])[H:9])([H:3])[H:4].[S:6]=[C:7][S:8][H:10],-17.5728
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[O:16])[H:23])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[O:16])[H:23],83.01056
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[S:13][H:20])([H:14])([H:15])[H:16]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[S:13][H:20],55.6472
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[O:7][H:8]>>[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6][O:7][H:8],-1.046
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:21][O:27],8.811504
[C:1]1([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]1[C:13]([C:14]([H:15])[H:16])([H:17])[H:18]>>[C:1]1([H:3])[C:4]2([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]1[C:13]([H:17])([H:18])[C:14]2([H:15])[H:16],278.6544
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8][O:9][H:10]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:10])([H:3])[H:4].[O:8][O:9],0.0
